US05246937
To a solution of 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-aminopurine (0.48 g, 1.5 mmol) in methanol (9 ml) was added anhydrous potassium carbonate (14 mg, 0.1 mmol) and the solution was stirred for 20 minutes. Two drops of glacial acetic acid were added, the solution was filtered and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (15:1, 10:1) to afford 9-(4-acetoxy-3-hydroxymethylbut-1-yl)-2-aminopurine as a white crystalline solid (124 mg, 30%), m.p. 166°-168°; νmax (KBr) 3440, 3220, 1720, 1650, 1615, and 1580 cm-1 ; δH [(CD3)2SO]1.68 (1H, m, 3'-H), 1.82 (2H, m, 2'-H), 1.98 (3H, s, CH3), 3.41 (2H, t, J4.8 Hz, D2O exchange gives d, CH 2 OH), 3.9-4.05 (2H, AB part of ABX, JAB 10.9 Hz and JAX =JBX 5.8 Hz, CH2OCO), 4.12 (2H, t, J 7.2 Hz, 1'-H), 4.62 (1H, t, J 5.0 Hz, D2O exchangeable, OH), 6.44 (2H, s, D2O exchangeable, 2-NH2), 8.07 (1H, s, 8-H), and 8.56 (1H, s, 6-H); (Observed M+, 279.1326. C12H17N5O3 requires 279.1331).

reactant | 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-aminopurine | 1.5 mmol, 0.48 g | C(C)(=O)OCC(CCN1C2=NC(=NC=C2N=C1)N)COC(C)=O | C14H19N5O4
reactant | potassium carbonate | 0.1 mmol, 14 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 9 ml | CO | CH4O
catalyst | acetic acid | Two drops | C(C)(=O)O | C2H4O2
product | 9-(4-acetoxy-3-hydroxymethylbut-1-yl)-2-aminopurine | 124 mg, 30% | C(C)(=O)OCC(CCN1C2=NC(=NC=C2N=C1)N)CO | C12H17N5O3
